US03985750
8-Methoxy-10-[4-(3-dodecanoyloxypropyl)piperazino]-10,11-dihydrodibenzo[b,f]thiepin
In accordance with the procedure described in the foregoing Examples, 12.96 grams of 8-methoxy-10-[4-(3-hydroxypropyl)piperazino]-10,11-dihydrodibenzo[b,f]thiepin was reacted with 13.1 grams of lauroyl chloride (dodecanoyl chloride) in 50 milliliters of benzene and the resulting crude 8-methoxy-10-[4-(3-dodecanoyloxypropyl)piperazino]-10,11-dihydrodibenzo[b,f]thiepin was purified by recrystallization of the maleate from acetone and recovered in the form of its di(hydrogen maleate). The salt was recovered in a yield of 14.9 grams and had a melting point of 126-129°C. The pure ester was recovered in the form of a viscous oil by adding the salt to a dilute aqueous ammonium hydroxide solution and extracting the resulting solution with benzene. EXAMPLE 4

reactant | 8-methoxy-10-[4-(3-hydroxypropyl)piperazino]-10,11-dihydrodibenzo[b,f]thiepin | 12.96 grams | COC=1C=CC2=C(C(CC3=C(S2)C=CC=C3)N3CCN(CC3)CCCO)C1 | C22H28N2O2S
reactant | lauroyl chloride | 13.1 grams | C(CCCCCCCCCCC)(=O)Cl | C12H23ClO
solvent | benzene | 50 milliliters | C1=CC=CC=C1 | C6H6
product | 8-Methoxy-10-[4-(3-dodecanoyloxypropyl)piperazino]-10,11-dihydrodibenzo[b,f]thiepin | COC=1C=CC2=C(C(CC3=C(S2)C=CC=C3)N3CCN(CC3)CCCOC(CCCCCCCCCCC)=O)C1 | C34H50N2O3S
